US09428500B2
9-Benzenesulfonyl-4-chloro-6-(4-(4-(1-methylpiperidin-4-yl)piperazin-1-yl)phenyl)-9H-pyrido[2,3-b]indole
Under an inert atmosphere 9-benzenesulfonyl-4-chloro-6-(4-(piperazin-1-yl)phenyl)-9H-pyrido[2,3-b]indole (30 mg, 0.0596 mmol) was dissolved in anhydrous DCM (1.2 mL, c=0.05M). N-methyl-4-piperidone (22 μL, 3 eq) was added, followed by the addition of two drops of glacial acetic acid. The mixture was stirred for 1 h15 at r.t. and then cooled to 0° C. Sodium triacetoxyborohydride (38 mg, 3eq) was added in portions and the resultant mixture was allowed to warm to room temperature, and then stirred 22 h. The reaction mixture was then quenched with water and saturated aq. NaHCO3. The aqueous layer was extracted with EtOAc (3×7 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to yield the desired compound (33 mg, 93%) as a white solid that was used without further purification.

reactant | 9-benzenesulfonyl-4-chloro-6-(4-(piperazin-1-yl)phenyl)-9H-pyrido[2,3-b]indole | 0.0596 mmol, 30 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)N1CCNCC1)C(=CC=N2)Cl | C27H23ClN4O2S
reactant | N-methyl-4-piperidone | 22 μL, 3 eq | CN1CCC(CC1)=O | C6H11NO
reactant | Sodium triacetoxyborohydride | 38 mg, 3eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 0.05M, 1.2 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
product | 9-Benzenesulfonyl-4-chloro-6-(4-(4-(1-methylpiperidin-4-yl)piperazin-1-yl)phenyl)-9H-pyrido[2,3-b]indole | 33 mg, 93% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)N1CCN(CC1)C1CCN(CC1)C)C(=CC=N2)Cl | C33H34ClN5O2S
